US07842701B2
1-(3-methoxyphenyl)-3-(2-nitrophenyl)-1H-pyrazole-4-carboxylic acid
To a mixture of 1-(3-methoxyphenyl)-3-(2-nitrophenyl)-1H-pyrazole-4-carbaldehyde (1.00 g), water (2 ml) and pyridine (2 ml) was added portionwise potassium permanganate (538 mg). After stirring for 1 hour, the precipitated manganese oxide was filtered off through Celite, the Celite layer was washed with 1N aqueous sodium hydroxide solution. The filtrate and washings were combined, washed with ethyl acetate. The aqueous layer was acidified with 6N hydrochloric acid, extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, the residue was solidified by adding hexane. The solid was collected by filtration and washed with hexane to obtain the target compound (676 mg).

reactant | 1-(3-methoxyphenyl)-3-(2-nitrophenyl)-1H-pyrazole-4-carbaldehyde | 1.00 g | COC=1C=C(C=CC1)N1N=C(C(=C1)C=O)C1=C(C=CC=C1)[N+](=O)[O-] | C17H13N3O4
reactant | water | 2 ml | O | H2O
reactant | potassium permanganate | 538 mg | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 1-(3-methoxyphenyl)-3-(2-nitrophenyl)-1H-pyrazole-4-carboxylic acid | 676 mg | COC=1C=C(C=CC1)N1N=C(C(=C1)C(=O)O)C1=C(C=CC=C1)[N+](=O)[O-] | C17H13N3O5
